US05541169
3.0 g (13 mmol) of p-dibromobenzene was dissolved in 100 ml of anhydrous diethyl ether, and under room temperature and an argon stream, 8.0 ml (13 mmol) of 1.6M n-butyllithium (hexane solution) was gradually added dropwise, followed by stirring for 1 minute. Further, 2.8 g (14 mmol) of trimethyltin chloride was added, and refluxed at 50° C. for 2 hours. After the reaction, the reaction solution was cooled, saturated ammonium chloride solution was added, and the mixture was extracted with diethyl ether. The organic layer was washed successively with water and saturated saline, dried over anhydrous magnesium sulfate and anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane) to give 2.7 g of 4-bromophenyltrimethyltin as a colorless oil (yield 66%).

reactant | p-dibromobenzene | 13 mmol, 3.0 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyllithium | 13 mmol, 1.6M, 8.0 ml | C(CCC)[Li]
reactant | trimethyltin chloride | 14 mmol, 2.8 g | C[Sn](C)(C)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-bromophenyltrimethyltin | 2.7 g, yield 66% | BrC1=CC=C(C=C1)[Sn](C)(C)C | InChI=1S/C6H4Br.3CH3.Sn/c7-6-4-2-1-3-5-6;;;;/h2-5H;3*1H3;
